US05185349
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-6-heptyltetrahydro-2-oxo-2H-pyran-3-carboxamide
The title compound was prepared from (±)-δ-dodecanolactone (5.0 g, 0.025 mol), 2,6-diisopropylphenyl isocyanate (5.12 g, 0.025 mol), and lithium diisopropylamide (0.025 mol) using the procedure described in Example 1.

reactant | (±)-δ-dodecanolactone | 0.025 mol, 5.0 g | C1(CCC(CCCCCCCC)O1)=O | C12H22O2
reactant | 2,6-diisopropylphenyl isocyanate | 0.025 mol, 5.12 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | lithium diisopropylamide | 0.025 mol | C(C)(C)[N-]C(C)C.[Li+]
product | N-[2,6-bis(1-methylethyl)phenyl]-6-heptyltetrahydro-2-oxo-2H-pyran-3-carboxamide | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)C1C(OC(CC1)CCCCCCC)=O | C25H39NO3
